US08110571B2
To a suspension of 300 mg of 1-cyclopropyl-3-(5-hydroxy-1H-benzimidazol-2-yl)urea in 100 cm3 of acetone are added 186 mg of triethylamine and 349 mg of 2,6-dichlorobenzenesulfonyl chloride. After stirring overnight at a temperature in the region of 20° C., 90 mg of 2,6-dichlorobenzenesulfonyl chloride are added and the mixture is stirred for a further 24 hours. The reaction medium is evaporated to dryness under reduced pressure (2 kPa). The residue is taken up in 50 cm3 of water and then extracted with three times 40 cm3 of ethyl acetate. The combined organic phases are dried over magnesium sulfate, filtered and evaporated to dryness under reduced pressure (0.5 kPa). After flash chromatography on a column of silica [eluent: dichloromethane/methanol (96.5/3.5 by volume)], the product obtained is solidified in 10 cm3 of diethyl ether and then filtered off, washed with three times 5 cm3 of diethyl ether and dried under reduced pressure over phosphorus pentoxide. 130 mg of 2-[(cyclopropylcarbamoyl)amino]-1H-benzimidazol-5-yl 2,6-dichlorobenzenesulfonate are obtained in the form of a cream-coloured powder, the characteristics of which are as follows:

reactant | 1-cyclopropyl-3-(5-hydroxy-1H-benzimidazol-2-yl)urea | 300 mg | C1(CC1)NC(=O)NC1=NC2=C(N1)C=CC(=C2)O | C11H12N4O2
reactant | triethylamine | 186 mg | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichlorobenzenesulfonyl chloride | 349 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | 2,6-dichlorobenzenesulfonyl chloride | 90 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | acetone | 100 cm3 | CC(=O)C | C3H6O
solvent | diethyl ether | 10 cm3 | C(C)OCC | C4H10O
product | 2-[(cyclopropylcarbamoyl)amino]-1H-benzimidazol-5-yl 2,6-dichlorobenzenesulfonate | 130 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)OC1=CC2=C(NC(=N2)NC(NC2CC2)=O)C=C1 | C17H14Cl2N4O4S
